US04876261
1.03 g of 2-benzyl-4-(3,4-dihydroxyphenyl)-7-hydroxy-8-nitro-1,2,3,4-tetrahydroisoquinoline hydrobromide was suspended in 20 ml of ethanol, and after adding thereto 1 ml of Raney nickel, hydrogenation reaction was performed at 40° C. The hydrogenation reaction was over, the reaction mixture was filtered, and concentrated, affording 0.88 g of 8-amino-2-benzyl-4-(3,4-dihydroxyphenyl)-7-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide. (2) To a solution of 0.25 ml of formic acid in 10 ml of chloroform, was added under ice cooling 0.88 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide, and then after 15 minutes, was added dropwise 5 ml of a solution of 8-amino-2-benzyl-4-(3,4-dihydroxyphenyl)-7-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide (0.88 g) in dimethylformamide. The temperature of the reaction mixture was reverted to room temperature, and the reaction was performed for further 30 minutes. The reaction mixture was concentrated, and the residue obtained was changed to precipitates by addition of standard buffer solution (x5). The precipitates were collected by filtration, and washed perfectly with water, affording 450 mg of 2-benzyl-4-(3,4-dihydroxyphenyl)-8-formylamido-7-hydroxy-1,2,3,4-tetrahydroisoquinoline. (3) 450 mg of 2-benzyl-4-(3,4-dihydroxyphenyl)-8-formamido-7-hydroxy-1,2,3,4-tetrahydroisoquinoline was dissolved in 9 ml of ethanol, and after adding thereto 0.86 ml of 2N hydrochloric acid 0.05 g of 10% paradium-carbon, hydrogenation reaction was performed at room temperature. The hydrogenation reaction was over, the reaction mixture was filtered, and concentrated. The residue was changed to precipitates with treatment of isopropyl alcohol and acetonitrile, and the precipitates was collected by filtration, affording 320 mg of 4-(3,4-dihydroxyphenyl)-8-formamido-7-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride.

reactant | 2-benzyl-4-(3,4-dihydroxyphenyl)-7-hydroxy-8-nitro-1,2,3,4-tetrahydroisoquinoline hydrobromide | 1.03 g | Br.C(C1=CC=CC=C1)N1CC2=C(C(=CC=C2C(C1)C1=CC(=C(C=C1)O)O)O)[N+](=O)[O-]
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Raney nickel | 1 ml | [Ni] | Ni
product | 8-amino-2-benzyl-4-(3,4-dihydroxyphenyl)-7-hydroxy-1,2,3,4-tetrahydroisoquinoline hydrobromide | 0.88 g | Br.NC=1C(=CC=C2C(CN(CC12)CC1=CC=CC=C1)C1=CC(=C(C=C1)O)O)O | InChI=1S/C22H22N2O3.BrH/c23-22-18-13-24(11-14-4-2-1-3-5-14)12-17(16(18)7-9-20(22)26)15-6-8-19(25)21(27)10-15;/h1-10,17,25-27H,11-13,23H2;1H
